US07572801B2
In analogy to the procedure described in example 124.1, 5-butyl-2-chloro-nicotinic acid methyl ester was treated with LiOH in THF to give 5-butyl-2-chloro-nicotinic acid as colorless crystals. MS: m/e=212.2 [M−H−].

reactant | 5-butyl-2-chloro-nicotinic acid methyl ester | COC(C1=C(N=CC(=C1)CCCC)Cl)=O | C11H14ClNO2
reactant | LiOH | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
product | 5-butyl-2-chloro-nicotinic acid | C(CCC)C=1C=NC(=C(C(=O)O)C1)Cl | C10H12ClNO2
